US04563446
(E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol (1.2 g, 4.5 mmoles) was added to formic acid (10 ml) and the mixture was refluxed for 7 hours. After cooling, the mixture was concentrated under reduced pressure and the resulting oil was subjected to silica gel column chromatography using isopropyl ether-ethyl acetate (1:1) as the eluent to give 1-formyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene (1.2 g, 91%) (Compound Id-20) as an oil.

reactant | (E)-7-Phenyl-7-(3-pyridyl)-6-hepten-1-ol | 4.5 mmoles, 1.2 g | C1(=CC=CC=C1)\C(=C/CCCCCO)\C=1C=NC=CC1 | C18H21NO
reactant | formic acid | 10 ml | C(=O)O | CH2O2
product | 1-formyloxy-(E)-7-phenyl-7-(3-pyridyl)-6-heptene | 1.2 g, 91% | C(=O)OCCCCC\C=C(\C=1C=NC=CC1)/C1=CC=CC=C1 | C19H21NO2
